US07279595B2
N-[2-(ethoxycarbonyl)butyl]-N-t-butyloxycarbonylalanine
To a suspension of N-[2-(ethoxycarbonyl)butyl]alanine (1.1 g, 5 mmol) and potassium carbonate (0.76 g, 5.5 mmol) in acetone (15 mL) was added di-t-butyl dicarbonate (1.20 g, 5.5 mmol) and water (1.25 mL) at 0-5° C. After stirring for 2 h at ambient temperature the mixture was cooled and the solid precipitation was filtered off. Ethyl acetate (15 mL), ice (5 g) and aqueous NaOH solution (1N, 10 mL) was added. After stirring for 5 min the layers were separated. Concentrated hydrochloric acid (1.5 mL) was added to the aqueous layer and the mixture was extracted with ethyl acetate (15 mL). After drying and evaporation N-[2-(ethoxycarbonyl)butyl]-N-t-butyloxycarbonylalanine (0.61 g, 38%) was obtained as a yellow oil which can be used in the next reaction without further purification.

reactant | N-[2-(ethoxycarbonyl)butyl]alanine | 5 mmol, 1.1 g | C(C)OC(=O)C(CN[C@@H](C)C(=O)O)CC | C10H19NO4
reactant | potassium carbonate | 5.5 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl dicarbonate | 5.5 mmol, 1.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 1.25 mL | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | N-[2-(ethoxycarbonyl)butyl]-N-t-butyloxycarbonylalanine | C(C)OC(=O)C(CN([C@@H](C)C(=O)O)C(=O)OC(C)(C)C)CC | C15H27NO6
